US20010047030A1
Step 1 Preparation of 3-F-Phe-Arg(NO2)-OMe
To a solution of 2.00 gm of BOC-3-F-Phe-OH (7.06 mmol), 2.09 gm of Arg(NO2)-OMe HCl (7.77 mmol), 1.05 gm of hydroxybenzotriazole and 2.58 gm of 4-dimethylaminopyridine in 50 mL of methylene chloride was added 1.5 gm of 1,3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride. After stirring for 15 hours 100 mL more methylene chloride was added to the reaction, and it was washed three times with 100 mL portions of 10% aqueous hydrochloric acid solution, twice with 100 mL of 50% saturated sodium bicarbonate solution, once with 100 mL of saturated brine, dried over anhydrous magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield 2.96 gm of product. This was dissolved in 100 mL of 10% trifluoroacetic acid in methylene chloride, stirred for 2 hours, and the solvent removed rapidly under reduced pressure. The material was triturated with diethyl ether and dried under high vacuum to yield product.

reactant | BOC-3-F-Phe-OH | 7.06 mmol, 2.00 gm | N([C@@H](CC1=CC(=CC=C1)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO4
reactant | Arg(NO2)-OMe HCl | 7.77 mmol, 2.09 gm | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OC.Cl
reactant | hydroxybenzotriazole | 1.05 gm | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1,3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 1.5 gm | Cl.CNC(CCNC)N=C=NCC
catalyst | 4-dimethylaminopyridine | 2.58 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-F-Phe-Arg(NO2)-OMe | 2.96 gm | N[C@@H](CC1=CC(=CC=C1)F)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OC | C16H23FN6O5
